US06660756B2
5-Bromo-2,2-dimethyl-2,3-dihydrobenzo[b]furan
2,2-Dimethyl-2,3-dihydrobenzo[b]furan (prepared according to the method of Baker and Shulgin, J. Org. Chem., 28, 1963, 2468) (500 mg, 3.38 mmol) was taken up in dichloroethane (5.5 ml) and stirred at room temperature under nitrogen, and N-bromosuccinimide (661 mg, 3.72 mmol) added in one portion. The reaction was then refluxed for 2 h, ether was added (10 ml) and a white precipitate of succinimide filtered off. The filtrate was evaporated to dryness, and then purified by column chromatography using 5% ether in pentane as eluant to give the title product (604 mg, 79%); 1HNMR (400 MHz, CDCl3) δ: 1.43 (s, 6H), 2.92 (s, 2H), 6.54 (d, 1H), 7.16 (d, 1H), 7.19 (s, 1H); LRMS: M+H, 227. (TS+).

reactant | 2,2-Dimethyl-2,3-dihydrobenzo[b]furan | CC1(CC2=C(O1)C=CC=C2)C | C10H12O
reactant | N-bromosuccinimide | 3.72 mmol, 661 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ether | CCOCC | C4H10O
solvent | dichloroethane | 5.5 ml | ClC(C)Cl | C2H4Cl2
product | 5-Bromo-2,2-dimethyl-2,3-dihydrobenzo[b]furan | 604 mg, 79% | BrC1=CC2=C(OC(C2)(C)C)C=C1 | C10H11BrO
